US06433176B1
According to a procedure similar to that of Embodiment 1, a mixture of m-aminophenol (5.0 g, 46 mmol), 1 -bromo-3-chloropropane (23.9 g, 15 ml, 151 mmol) and N,N-dimethylformamide (15 ml) was heated and refluxed for 15 hours. After silica gel column chromatography, 8-hydroxyjulolidine (5.5 g) was obtained in 62% yield.

reactant | m-aminophenol | 46 mmol, 5.0 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | 1 -bromo-3-chloropropane | 151 mmol, 15 ml, 23.9 g | BrCCCCl | C3H6BrCl
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 8-hydroxyjulolidine | 5.5 g, 62% yield | C1CC2=C3C(=C(C=C2)O)CCCN3C1 | C12H15NO
